US04863921
METHYL 2-CHLORO-TRANS-5a,6,7,8,9,9a-HEXAHYDRODIBENZO-FURAN-4-CARBOXYLATE
A mixture of 9 g of methyl 3-(3-hexenyl)-5-chlorosalicylate and 20 ml trifluoroacetic acid is heated at 70° C. overnight. The cooled reaction mixture is diluted with hexanes, washed three times with water, dried and evaporated to dryness. The residue is purified with flash chromatography using 10% ethylacetate/hexane to give four fractions

reactant | methyl 3-(3-hexenyl)-5-chlorosalicylate | 9 g | C(CC=CCC)C1=C(C(C(=O)OC)=CC(=C1)Cl)O | C14H17ClO3
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | METHYL 2-CHLORO-TRANS-5a,6,7,8,9,9a-HEXAHYDRODIBENZO-FURAN-4-CARBOXYLATE | ClC1=CC2=C(O[C@H]3[C@H]2CCCC3)C(=C1)C(=O)OC | C14H15ClO3
